US07371743B2
(d) 3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzoic acid
150 mg (0.57 mmol) methyl 3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzoate are suspended in 1 ml of ethanol and combined with 0.26 ml (0.87 mmol) 8% aqueous lithium hydroxide solution. The mixture is stirred for 3 hours at ambient temperature and then evaporated down i. vac. The aqueous residue is extracted twice with ethyl acetate, then acidified and extracted twice more with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated down i. vac.

reactant | methyl 3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzoate | 0.57 mmol, 150 mg | CC=1C=C(C(=O)OC)C=CC1N1C(OCCCC1)=O | C14H17NO4
reactant | lithium hydroxide | 0.87 mmol, 0.26 ml | [OH-].[Li+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-methyl-4-([1,3]oxazepan-2-on-3-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1C(OCCCC1)=O | C13H15NO4
